US07763751B2
N-(5,6-Dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-O-ethyl-hydroxylamine
5,6-Dimethoxy-3,4-dihydro-1H-naphthalen-2-one (1.5 g, 7.5 mmol), prepared as described in J Med. Chem. 1977, 20, 1111-1116, was dissolved in water (15 ml) and a solution of O-ethylhydroxylamine hydrochloride (1 g, 10 mmol) and Na2CO3 (0.53 g, 5 mmol) in water (10 ml) was added dropwise under stirring at 10° C. The reaction was left at room temperature overnight and then extracted with diethyl ether. The ether solution was evaporated to dryness under vacuum. The residue was dissolved in 20 ml of ethanol and concentrated hydrochloric acid (1 ml) and hydrogenated at 3,6×106 Pa (50 psi) using PtO2 as catalyst. The solvent was removed under reduced pressure, water was added and the aqueous phase was treated with NaHCO3 and extracted with ethyl acetate. The organic phase was dried over MgSO4, filtered and concentrated to dryness under vacuum. The crude residue was purified by chromatography, to afford 0.85 g of the title compound.

reactant | 5,6-Dimethoxy-3,4-dihydro-1H-naphthalen-2-one | 7.5 mmol, 1.5 g | COC1=C2CCC(CC2=CC=C1OC)=O | C12H14O3
reactant | O-ethylhydroxylamine hydrochloride | 10 mmol, 1 g | Cl.C(C)ON
reactant | Na2CO3 | 5 mmol, 0.53 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | N-(5,6-Dimethoxy-1,2,3,4-tetrahydro-naphthalen-2-yl)-O-ethyl-hydroxylamine | 0.85 g | COC1=C2CCC(CC2=CC=C1OC)NOCC | C14H21NO3
